US07265148B2
A solution of N-bromosuccinimide (0.83 g, 4.7 mmol) in DMF (5 mL) was added dropwise to a stirred solution of ethyl 5-nitro-1H-indole-2-carboxylate (1.0 g, 4.27 mmol) in DMF (5 mL) at 0˜5° C. After the addition was completed, the reaction was warmed to room temperature and stirring was continued for an additional 1.5 h. The reaction mixture was poured over ice water and the resulting precipitate was collected and dried. The dried solid was re-dissolved in DMF (10 mL) and benzyl bromide (0.68 g, 4.0 mmol) and Cs2CO3 (6.56 g, 20 mmol) were added successively. The reaction was stirred for overnight and then diluted with water. The product was extracted with ethyl acetate, dried over magnesium sulfate. Recrystalization from ethyl acetate and hexane gave 0.99 g (57%) of ethyl 1-benzyl-3-bromo-5-nitro-1H-indole-2-carboxylate as an off-white solid: 1H NMR (DMSO-d6) δ 1.28 (t, J=7.0 Hz, 3 H), 4.35 (q, J=7.0 Hz, 2 H), 5.90 (s, 2 H), 7.00-7.10 (m, 2 H), 7.20-7.35 (m, 3 H), 7.95 (d, J=9.3 Hz, 1 H), 8.25 (dd, J=9.3, 2.0 Hz, 1 H), 8.48 (d, J=2.0 Hz, 1 H); MS (ESI) m/z 403/405 (MH+).

reactant | N-bromosuccinimide | 4.7 mmol, 0.83 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 5-nitro-1H-indole-2-carboxylate | 4.27 mmol, 1.0 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | benzyl bromide | 4.0 mmol, 0.68 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Cs2CO3 | 20 mmol, 6.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 1-benzyl-3-bromo-5-nitro-1H-indole-2-carboxylate | 0.99 g, 57% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])Br)C(=O)OCC | C18H15BrN2O4
